US07511050B2
Step A: 2-(methylthio)-3-pentyl-3,7-dihydro-6H-purin-6-one
To a solution of 3-pentyl-2-thioxo-1,2,3,7-tetrahydro-6H-purin-6-one (13.0 g, 54.6 mmol) in 2 M of sodium hydroxide in water (250 mL) was added dimethyl sulfate (6.2 mL, 66 mmol), and the reaction mixture was stirred at room temperature for 1 hour, then neutralized with acetic acid. The precipitate was collected by filtration and recrystallized from ethyl acetate-MeOH (1:1) to give the desired product (5.50 g, 40%). LCMS calculated for C11H17N4OS(M+H): 253.1; found: 253.1.

reactant | 3-pentyl-2-thioxo-1,2,3,7-tetrahydro-6H-purin-6-one | 54.6 mmol, 13.0 g | C(CCCC)N1C(NC(C=2NC=NC12)=O)=S | C10H14N4OS
reactant | dimethyl sulfate | 66 mmol, 6.2 mL | S(=O)(=O)(OC)OC | C2H6O4S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | sodium hydroxide | 2 M | [OH-].[Na+]
solvent | water | 250 mL | O | H2O
product | 2-(methylthio)-3-pentyl-3,7-dihydro-6H-purin-6-one | 5.50 g, 40% | CSC1=NC(C=2NC=NC2N1CCCCC)=O | C11H16N4OS
